US05990101
(1S,5R,6S)-6-[(1R)-1-hydroxyethyl]-2-(3-formylimidazo[5,1-b]thiazolium-6-yl)methyl-1-methyl-1-carbapen-2-em-3-carboxylate (internal salt)
The same procedure as in Example 1 was repeated except that 93 mg of allyl (1S,5R,6S)-6-[(1R)-1-allyloxycarbonyloxyethyl]-2-hydroxymethyl-1-methyl-1-carbapen-2-em-3-carboxylate and 58 mg of 3-formylimidazo[5,1-b]thiazole were used, thereby obtaining 3.2 mg of the title compound.

reactant | allyl (1S,5R,6S)-6-[(1R)-1-allyloxycarbonyloxyethyl]-2-hydroxymethyl-1-methyl-1-carbapen-2-em-3-carboxylate | 93 mg | C(C=C)OC(=O)O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)CO)C(=O)OCC=C)C1=O | C18H23NO7
reactant | 3-formylimidazo[5,1-b]thiazole | 58 mg | C(=O)C=1N2C(SC1)=CN=C2 | C6H4N2OS
product | (1S,5R,6S)-6-[(1R)-1-hydroxyethyl]-2-(3-formylimidazo[5,1-b]thiazolium-6-yl)methyl-1-methyl-1-carbapen-2-em-3-carboxylate | 3.2 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)CN2C=[N+]3C(SC=C3C=O)=C2)C(=O)[O-])C1=O | C17H17N3O5S
